US06469020B2
2-(6-Methoxy-1,3,4,9-tetrahydro-β-carboline-2-sulfonylmethyl)-3-methylbutyric Acid tert-Butyl Ester
A solution of 2-chlorosulfonylmethyl-3-methylbutyric acid tert-butyl ester (WO 99/24399) (470mg) in dichioromethane (10 ml) was added to a mixture of 6-methoxy-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole (350 mg) and triethylamine (0.72 ml) in dichloromethane (10 ml) at room temperature under nitrogen. The mixture was stirred for 20 minutes before being evaporated to dryness and the residue chromatographed (SiO2, 1:1 heptane-ethyl acetate) to give the title compound (487 mg, 66%) as a white solid.

reactant | 2-chlorosulfonylmethyl-3-methylbutyric acid tert-butyl ester | 470mg | C(C)(C)(C)OC(C(C(C)C)CS(=O)(=O)Cl)=O | C10H19ClO4S
reactant | 6-methoxy-1,2,3,4-tetrahydro-9H-pyrido[3,4-b]indole | 350 mg | COC=1C=C2C3=C(NC2=CC1)CNCC3 | C12H14N2O
reactant | triethylamine | 0.72 ml | C(C)N(CC)CC | C6H15N
solvent | dichioromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 2-(6-Methoxy-1,3,4,9-tetrahydro-β-carboline-2-sulfonylmethyl)-3-methylbutyric Acid tert-Butyl Ester | 487 mg, 66% | C(C)(C)(C)OC(C(C(C)C)CS(=O)(=O)N1CC=2NC3=CC=C(C=C3C2CC1)OC)=O | C22H32N2O5S
